US08426420B2
iii) 3-Butoxycarbonylamino-pyrrolidine-1-carboxylic acid benzyl ester
To a solution of 3.00 g 3-amino-pyrrolidine-1-carboxylic acid benzyl ester hydrotrifluoroacetate in 50 ml dichloromethane were added dropwise 3.7 ml triethylamine and 1.3 ml butylchloroformate at 0° C. After stirring for 12 h the reaction mixture was diluted with dichloromethane, washed with 0.1 M HCl, saturated aqueous NaHCO3 and brine. The crude product thus obtained was purified by flash chromatography on silica using ethyl acetate/heptane 2:3 as eluent. Yield: 648 mg.

reactant | 3-amino-pyrrolidine-1-carboxylic acid benzyl ester | 3.00 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)N | C12H16N2O2
reactant | triethylamine | 3.7 ml | C(C)N(CC)CC | C6H15N
reactant | butylchloroformate | 1.3 ml | C(CCC)OC(=O)Cl | C5H9ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Butoxycarbonylamino-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)NC(=O)OCCCC | C17H24N2O4
